US07968538B2
To a stirred solution of 1-(5-chloro-2,3-dimethoxy-phenyl)-ethanone (3.6 g, 16.8 mmol) and ammonium acetate (12.9 g, 168 mmol) in absolute methanol (50 mL) was added sodium cyanoborohydride (0.738 g, 11.8 mmol) in one portion. The resulting solution was stirred at room temperature for 36 h. Concentrated HCl was added until pH<2. The methanol was then evaporated, and the resulting white residue was dissolved in H2O (50 mL) and washed with diethyl ether (2×50 mL). The aqueous phase was then basified with powdered KOH to pH>10, saturated with NaCl, and extracted with dichloromethane (4×10 mL). The combined dichloromethane extracts were dried over Na2SO4, filtered, and evaporated to the crude compound which was purified by silica gel column (1% NH4OH/8% methanol/dichloromethane) to afford 1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl amine (1.43 g, 40%): 1H NMR (400 MHz, CDCl3): δ 6.98 (d, 1H), 6.78 (d, 1H), 4.39 (m, 1H), 3.86 (s, 3H), 3.83 (s, 3 H), 1.35 (d, 3H).

reactant | 1-(5-chloro-2,3-dimethoxy-phenyl)-ethanone | 16.8 mmol, 3.6 g | ClC=1C=C(C(=C(C1)C(C)=O)OC)OC | C10H11ClO3
reactant | ammonium acetate | 168 mmol, 12.9 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 11.8 mmol, 0.738 g | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 1-(5-chloro-2,3-dimethoxy-phenyl)-ethyl amine | 1.43 g, 40% | ClC=1C=C(C(=C(C1)C(C)N)OC)OC | C10H14ClNO2
